US07498337B2
ethyl 2-cyano-4-(2,6-difluorophenyl)-4-oxobutanoate
To a solution of ethyl cyanoacetate (7.24 g) and diisopropylethylamine (19.9 g) in tetrahydrofuran (30 mL) was added dropwise a solution of 2-bromo-1-(2,6-difluorophenyl)ethanone (15.16 g) in tetrahydrofuran (15 mL) at 10-15° C. The mixture was stirred at room temperature for 12 hr. The reaction mixture was filtered, and the obtained filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate, washed successively with water, 1 mol/L hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1→3:2) to give the title compound as a pale-green oil (yield 13.8 g, 81%).

reactant | ethyl cyanoacetate | 7.24 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | diisopropylethylamine | 19.9 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-bromo-1-(2,6-difluorophenyl)ethanone | 15.16 g | BrCC(=O)C1=C(C=CC=C1F)F | C8H5BrF2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | ethyl 2-cyano-4-(2,6-difluorophenyl)-4-oxobutanoate | yield 13.8 g, 81% | C(#N)C(C(=O)OCC)CC(=O)C1=C(C=CC=C1F)F | C13H11F2NO3
